US09314464B2
Intermediate. 3-(Dimethylamino)-1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)prop-2-en-1-one
A mixture of Intermediate 1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)ethanone (5.0 g, 18.0 mmol) and N,N-dimethylformamide dimethyl acetal (50 mL) was heated at 155° C. for 20 h. The mixture was concentrated under vacuum to provide the crude title compound. MS m/z 334.0 (M+1).

reactant | 1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)ethanone | 18.0 mmol, 5.0 g | IC1=NN(C=C1C(C)=O)C(C)C | C8H11IN2O
reactant | N,N-dimethylformamide dimethyl acetal | 50 mL | COC(N(C)C)OC | C5H13NO2
product | 3-(Dimethylamino)-1-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)prop-2-en-1-one | CN(C=CC(=O)C=1C(=NN(C1)C(C)C)I)C | C11H16IN3O
